US05506219
Methyl acetoacetate (272 mg, 2.34 mmol) was added dropwise to a slurry of NaH (60% in mineral oil, 93.7 mg, 23.4 mmol) in dry THF (5.5 ml) at 0° C. After 15 minutes, the solution was treated with n-BuLi (1.6M in hexanes, 1.11 ml, 1.78 mmol) and stirred an additional 15 minutes. (E)-3-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal (560 mg, 1.62 mmol) in THF (3.0 ml) was added, resulting in an orange solution. After 25 minutes, the solution was poured into a biphasic mixture Et2O (30 ml), 1N HCl (4.5 ml) and H2O (16 ml). The aqueous phase was neutralized with saturated NaHCO3 and the layers were separated. The aqueous layer was extracted again with Et2O and the combined Et2O layers were washed with brine and dried (Na2SO4). Filtration and solvent removal afforded an oil which was chromatographed (Flash, Merck SiO2, 30% EtOAc in hexane) to give (E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester (387 mg, 52%) as a light yellow oil.

reactant | Methyl acetoacetate | 2.34 mmol, 272 mg | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 23.4 mmol, 93.7 mg | [H-].[Na+]
reactant | n-BuLi | 1.78 mmol, 1.6M, 1.11 ml | [Li]CCCC
reactant | (E)-3-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-2-propenal | 1.62 mmol, 560 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)/C=C/C=O | C23H20FNO
reactant | HCl | 1N, 4.5 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5.5 ml | C1CCOC1 | C4H8O
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
solvent | H2O | 16 ml | O | H2O
solvent | Et2O | 30 ml | CCOCC | C4H10O
product | (E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester | 387 mg, 52% | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)/C=C/C(CC(CC(=O)OC)=O)O | C28H28FNO4
